US07910613B2
2-Furan-3-yl-1-phenyl-ethanone (intermediate for 5-furan-3-yl-4-phenyl-thiazol-2-ylamine)
3-(2-Phenyl-[1,3]dithian-2-ylmethyl)-furan (11.5 g, 41 mmol) was suspended in 9:1 methanol/water (v/v) (150 mL) with slight heating. A solution of HgCl2 (22.3 g, 82 mmol) in methanol/water (50 mL) and solid HgO (8.0 g, 36.9 mmol) was added, and the mixture was heated at reflux under a nitrogen atmosphere for 6-7 h. The reaction mixture was filtered through celite to remove solids, and then concentrated. The resulting aqueous mixture was extracted with ethyl acetate, the combined organic extracts were washed with water, dried over sodium sulfate, and evaporated. The crude product was purified by flash column chromatography using 2% ethyl acetate in hexane as eluent. Yield: 5.7 g, 75%.

reactant | 3-(2-Phenyl-[1,3]dithian-2-ylmethyl)-furan | 41 mmol, 11.5 g | C1(=CC=CC=C1)C1(SCCCS1)CC1=COC=C1 | C15H16OS2
reactant | methanol water | 50 mL | CO.O
reactant | methanol water | 150 mL | CO.O
catalyst | HgCl2 | 82 mmol, 22.3 g | Cl[Hg]Cl
product | 2-Furan-3-yl-1-phenyl-ethanone | O1C=C(C=C1)CC(=O)C1=CC=CC=C1 | C12H10O2
